US04518713
1-{2-{N-[4-(4-Fluorophenyl)-4-oxobutyl]-N-methylamino}ethyl}-4-(4-fluorophenyl)piperidine dihydrochloride
A suspension of 11.4 g (21.4 mmol) of 1-{2-{N-{3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl}-N-methylamino}ethyl}-4-(4-fluorophenoxy)piperidine dihydrochloride, 260 ml of methanol and 130 ml of 3N HCl was heated at reflux for 3 hours under nitrogen. The mixture was allowed to cool to room temperature and the methanol evaporated. The mixture was made basic with saturated sodium carbonate, extracted twice with ether, washed with saturated sodium chloride and dried over potassium carbonate. Evaporation of the solvent provided an oil. The yield of the dihydrochloride was 8.38 g (79.9%). Recrystallization from ethanol/methanol provided analytically pure material.

reactant | 1-{2-{N-{3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl}-N-methylamino}ethyl}-4-(4-fluorophenoxy)piperidine dihydrochloride | 21.4 mmol, 11.4 g | Cl.Cl.FC1=CC=C(C=C1)C1(OCCO1)CCCN(C)CCN1CCC(CC1)OC1=CC=C(C=C1)F
reactant | HCl | 3N, 130 ml | Cl | ClH
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | methanol | 260 ml | CO | CH4O
product | 1-{2-{N-[4-(4-Fluorophenyl)-4-oxobutyl]-N-methylamino}ethyl}-4-(4-fluorophenyl)piperidine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C(CCCN(C)CCN1CCC(CC1)C1=CC=C(C=C1)F)=O | InChI=1S/C24H30F2N2O.2ClH/c1-27(14-2-3-24(29)21-6-10-23(26)11-7-21)17-18-28-15-12-20(13-16-28)19-4-8-22(25)9-5-19;;/h4-11,20H,2-3,12-18H2,1H3;2*1H
